US05036107
1-Cyclohexyl-1-hydroxy-1-phenylpropan-2-one
To a solution of 1-acetoxy-1-cyclohexyl-1-phenylpropan-2-one (16.42 g, 0.06 mol) in 55 ml of a 90% aqueous methanol solution was added 3.2 g of potassium hydroxide. The solution was refluxed for 15 minutes, cooled, and 90 ml of a saturated sodium chloride was added. The reaction mixture was transferred to a separatory funnel and washed with ether. The ether washes were combined, dried over sodium sulfate, and evaporated to dryness under vacuum. The crude product was vacuum distilled to afford a clear oil (10.51 g, 75.4%). Bp 125°-28° C. (0.1 mm). 1H NMR (CDCl3) δ7.6-7.2(m, 5H), 4.5(s, 1H), 2.1(s, 3H), 2.5-0.9(m, 11H). IR (neat) 3456, 3057, 1705, 1448, 1358, 1209, 1124 cm-1.

reactant | 1-acetoxy-1-cyclohexyl-1-phenylpropan-2-one | 0.06 mol, 16.42 g | C(C)(=O)OC(C(C)=O)(C1=CC=CC=C1)C1CCCCC1 | C17H22O3
reactant | potassium hydroxide | 3.2 g | [OH-].[K+]
reactant | sodium chloride | 90 ml | [Cl-].[Na+]
solvent | methanol | CO | CH4O
product | 1-Cyclohexyl-1-hydroxy-1-phenylpropan-2-one | 10.51 g, 75.4% | C1(CCCCC1)C(C(C)=O)(C1=CC=CC=C1)O | C15H20O2
